US07498338B2
2-(2,4-Dimethoxyphenyl)-N-methylacetamide
A mixture of (2,4-dimethoxyphenyl)acetic acid (577 mg, 3.0 mmol) and N,N-carbonyldiimidazole (608 mg, 3.75 mmol) in DMF (10 mL) was stirred at room temperature for 45 min, aqueous 40% methyl amine (4.5 mL) was added and the reaction mixture was stirred at room temperature over the week-end. The reaction mixture was is partitoned between ethyl acetate and H2O. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-80% ethyl acetate in petroleum spirit) to give the subtitled compound (460 mg).

reactant | (2,4-dimethoxyphenyl)acetic acid | 3.0 mmol, 577 mg | COC1=C(C=CC(=C1)OC)CC(=O)O | C10H12O4
reactant | N,N-carbonyldiimidazole | 3.75 mmol, 608 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methyl amine | 4.5 mL | CN | CH5N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-(2,4-Dimethoxyphenyl)-N-methylacetamide | 460 mg | COC1=C(C=CC(=C1)OC)CC(=O)NC | C11H15NO3
